US07064116B2
3α-Azido-5α-pregnan-20-one
A solution of 3β-hydroxy-5α-pregnan-20-one (60 mg, 0.19 mmol) in THF (2 mL) was treated with triphenylphosphine (100 mg, 0.38 mmol) and diethyl azo-dicarboxylate (0.03 mL, 0.19 mmol). To the resulting solution was added dropwise diphenylphosphoryl azide (0.04 mL, 0.19 mmol) and the mixture was stirred at RT for 24 h. Evaporation of the solvent in vacuo and purification of the residue using flash column chromatography using petroleum ether/ethyl acetate 90/10 as elution solvent afforded the compound named above.

reactant | 3β-hydroxy-5α-pregnan-20-one | 0.19 mmol, 60 mg | O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H34O2
reactant | triphenylphosphine | 0.38 mmol, 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azo-dicarboxylate | 0.19 mmol, 0.03 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 0.19 mmol, 0.04 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3α-Azido-5α-pregnan-20-one | N(=[N+]=[N-])[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H33N3O
